### PR TITLE
Add all_filter, all_pmap, and all_allpairsP in seq.v

### PR DESCRIPTION
**Pull request by pi8027**
##### Motivation for this change

Missing theorems.

##### Things done/to do

- [x] added corresponding entries in `CHANGELOG_UNRELEASED.md`
- ~[ ] added corresponding documentation in the headers~

##### Automatic note to reviewers

Read [this Checklist](https://github.com/math-comp/math-comp/wiki/Checklist-for-following,-reviewing-and-playing-with-a-PR#checklist-for-reviewing-a-pr) and make sure there is a milestone.

### CODE REVIEW

File: mathcomp/ssreflect/seq.v [hunk 1]
```diff
@@ -555,6 +555,10 @@ Proof. by move=> Ea s; rewrite !has_count (eq_count Ea). Qed.
 Lemma eq_all a1 a2 : a1 =1 a2 -> all a1 =1 all a2.
 Proof. by move=> Ea s; rewrite !all_count (eq_count Ea). Qed.
 
+Lemma all_filter (p q : pred T) xs :
+  all p (filter q xs) = all [pred i | q i ==> p i] xs.
+Proof. by elim: xs=> //= x xs <-; case: (q x). Qed.
```
Comment (CohenCyril) [inline mathcomp/ssreflect/seq.v]: Please add a space between `xs` and `=>` and I think you can conclude with `case: q` without mentioning `x`.

File: mathcomp/ssreflect/seq.v [hunk 2]
```diff
@@ -2260,6 +2264,10 @@ Proof. by elim: s => //= x s <-; rewrite -{3}(fK x); case: (f _). Qed.
 Lemma pmap_cat s t : pmap (s ++ t) = pmap s ++ pmap t.
 Proof. by elim: s => //= x s ->; case/f: x. Qed.
 
+Lemma all_pmap (p : pred rT) s :
+  all p (pmap s) = all [pred i | oapp p true (f i)] s.
+Proof. by elim: s=> //= x s <-; case: (f x). Qed.
```
Comment (CohenCyril) [inline mathcomp/ssreflect/seq.v]: same comment

File: mathcomp/ssreflect/seq.v [hunk 3]
```diff
@@ -2944,7 +2954,23 @@ Qed.
 
 End MemAllPairs.
 
-Arguments allpairsPdep {S T R f s t z}.
+Lemma all_allpairsP
+      (S : eqType) (T : S -> eqType) (R : Type)
+      (g : pred R) (f : forall i : S, T i -> R)
```
Comment (CohenCyril) [inline mathcomp/ssreflect/seq.v]: In this file, predicates are usually named `a`, `p` or `q`, could you rename `g` to one of these?

File: mathcomp/ssreflect/seq.v [hunk 4]
```diff
@@ -2944,7 +2954,23 @@ Qed.
...
+      (s : seq S) (t : forall i : S, seq (T i)) :
+  reflect (forall (i : S) (j : T i), i \in s -> j \in t i -> g (f i j))
+          (all g [seq f i j | i <- s, j <- t i]).
+Proof.
+elim: s=> [|i s IHs]; first by constructor.
```
Comment (CohenCyril) [inline mathcomp/ssreflect/seq.v]: please add a space between `s` and `=>`

File: mathcomp/ssreflect/seq.v [hunk 5]
```diff
@@ -2944,7 +2954,23 @@ Qed.
...
+rewrite /= all_cat all_map /preim.
+apply/(iffP andP)=> [[]|]; last (move=> His; split).
```
Comment (CohenCyril) [inline mathcomp/ssreflect/seq.v]: I am a bit confused by this proof script, I would find it more readable if there were less cases/splits in one go, and no introduction in the `last`.
e.g.
```coq
apply/(iffP andP)=> [[/allP ...]|His].
....
split; first by ....
....
```
or something like that.

File: mathcomp/ssreflect/seq.v (hunk 1 above)
Comment (pi8027) [reply mathcomp/ssreflect/seq.v]: `case: q` produces `Error: q is used in conclusion.`

Comment (CohenCyril) [reply mathcomp/ssreflect/seq.v]: I guess `case: {+}q` would work then, but you can keep the original form then...

File: mathcomp/ssreflect/seq.v [hunk 6]
```diff
@@ -2944,7 +2954,22 @@ Qed.
...
+      (S : eqType) (T : S -> eqType) (R : Type)
+      (p : pred R) (f : forall x : S, T x -> R)
+      (s : seq S) (t : forall x : S, seq (T x)) :
+  reflect (forall (x : S) (y : T x), x \in s -> y \in t x -> p (f x y))
+          (all p [seq f x y | x <- s, y <- t x]).
+Proof.
+elim: s => [|x s IHs]; first by constructor.
+rewrite /= all_cat all_map /preim.
+apply/(iffP andP)=> [[/allP /= Hx Hs x' y Hx']|Hxs].
+  move: Hx' y; rewrite inE => /predU1P [-> //|? ?]; exact: IHs.
```
Comment (CohenCyril) [inline mathcomp/ssreflect/seq.v]: please prefix this line with a `by`

File: mathcomp/ssreflect/seq.v [hunk 7]
```diff
@@ -2944,7 +2954,22 @@ Qed.
...
+Lemma all_allpairsP
+      (S : eqType) (T : S -> eqType) (R : Type)
+      (p : pred R) (f : forall x : S, T x -> R)
+      (s : seq S) (t : forall x : S, seq (T x)) :
+  reflect (forall (x : S) (y : T x), x \in s -> y \in t x -> p (f x y))
+          (all p [seq f x y | x <- s, y <- t x]).
+Proof.
+elim: s => [|x s IHs]; first by constructor.
+rewrite /= all_cat all_map /preim.
+apply/(iffP andP)=> [[/allP /= Hx Hs x' y Hx']|Hxs].
```
Comment (CohenCyril) [inline mathcomp/ssreflect/seq.v]: Could you please use more meaningful names instead of `H...` (e.g. `x_in_s` or `x_s`, etc) ?

**Comment by pi8027** [comment]
@CohenCyril Thank you!
